US04958023
Step 2: Praparation of N-(4-Fluoro-3-hydroxymethyphenyl)-2-pyridinecarboxamide
3-Hydroxymethyl-4-fluoroaniline (34.2 g, 243 mmol) was dissolved in dichloromethane (600 mL) under anhydrous conditions and cooled to 0° C. Triethylamine (120 mL, 0.861 mol) was added, followed by a solution of picolinic acid chloride hydrochloride (86.0 g, 0.483 mol) in methylene chloride (300 mL). The reaction mixture was stirred at 0° C. for 0.5 hours and at room temperature for 1 hour, and poured into ice water (2 L). The resulting mixture was basified with 1N sodium hydroxide solution, extracted with methylene chloride (3×800 mL), washed with brine, and dried over magnesium sulfate to give a brown oil, which was purified by flash chromatography (6 in diameter column, elution with 25% ethyl acetate in petroleum ether) to give the title compound (10.0 g, 18%, mp 99°-122° C.) as the first compound of the column, followed by 2-pyridinecarboxylic acid [[2-fluoro-4-[[(2-pyridinyl)oxomethyl]-amino]phenyl]methyl] ester (46.5 g, 52%, mp 116°-118° C.). Additional title compound can be obtained by treating the ester (25.0 g, 71 mmol) with potassium carbonate (19.8 g, 143 mmol) in water (20 mL), methanol (200 mL), and tetrahydrofuran (200 mL). The mixture was left for 2 days and then concentrated in vacuo. The residue was partitioned between ethyl acetate (500 mL) and water (500 ml) and the aqueous layer was extracted again with ethyl acetate (2×200 mL). The organic layer was washed with 2.5N sodium hydroxide solution (500 mL) and brine (500 mL), dried, and concentrated to afford more N-(4-fluoro-3-hydroxymethylphenyl)-2-pyridinecarboxamide (15 g, 90%).

reactant | 3-Hydroxymethyl-4-fluoroaniline | 243 mmol, 34.2 g | OCC=1C=C(N)C=CC1F | C7H8FNO
reactant | Triethylamine | 0.861 mol, 120 mL | C(C)N(CC)CC | C6H15N
reactant | picolinic acid chloride hydrochloride | 0.483 mol, 86.0 g | Cl.N1=C(C=CC=C1)C(=O)Cl
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Fluoro-3-hydroxymethyphenyl)-2-pyridinecarboxamide | 10.0 g, 18% | FC1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)CO | C13H11FN2O2
